US07223773B2
100 mg of ethyl 8-chloro-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate was suspended in 1 ml of toluene. 0.5 ml of ethanol, 0.25 ml of 2 M aqueous sodium carbonate solution, 61 mg of 2-(N,N-dimethylaminomethyl)phenylboronic acid and 10 mg of bis(triphenylphosphine)palladium (II) chloride were added to the obtained solution, and they were heated under reflux in argon atmosphere for 38 hours. Ethyl acetate was added to the reaction mixture. The organic layer was taken, washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The resultant residue was purified by the silica gel column chromatography (eluent: chloroform/acetone=4/1) to obtain 59 mg of 1-cyclopropyl-8-(2-dimethylaminomethylphenyl)-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid.

reactant | ethyl 8-chloro-1-cyclopropyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate | 100 mg | ClC=1C=CN2C(C(=CC(=C2C1OC)C1CC1)C(=O)OCC)=O | C16H16ClNO4
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2 M, 0.25 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(N,N-dimethylaminomethyl)phenylboronic acid | 61 mg | CN(C)CC1=C(C=CC=C1)B(O)O | C9H14BNO2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium (II) chloride | 10 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyclopropyl-8-(2-dimethylaminomethylphenyl)-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid | 59 mg | C1(CC1)C=1C=C(C(N2C=CC(=C(C12)OC)C1=C(C=CC=C1)CN(C)C)=O)C(=O)O | C23H24N2O4
